US04073795
Alpha-nitro-6-methyl-3-indoleacrylic acid methylester
A mixture of 32.5 g (0.25 mol) of 6-methylindole and 52.5 g (0.30 mol) of α-nitro-β-ethoxyacrylic acid methylester was let stand in a large crystallization dish at room temperature for 20 hours. The brown-orange solid was triturated with ether-hexane 1:1, the crystalline material collected by filtration, washed with ether and dried to afford 44.5 g. (69%) of product as orange crystals, m.p. 167°-169°.

reactant | 6-methylindole | 0.25 mol, 32.5 g | CC1=CC=C2C=CNC2=C1 | C9H9N
reactant | α-nitro-β-ethoxyacrylic acid methylester | 0.30 mol, 52.5 g | COC(C(=COCC)[N+](=O)[O-])=O | C6H9NO5
product | Alpha-nitro-6-methyl-3-indoleacrylic acid methylester | COC(C(=CC1=CNC2=CC(=CC=C12)C)[N+](=O)[O-])=O | C13H12N2O4
